US08859573B2
2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-({[2-oxo-1-(3-pyridinylmethyl)-1,2-dihydro-4-pyrimidinyl]oxy}methyl)benzonitrile
A mixture of 2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(2-oxo-2,3-dihydro-4-pyrimidinyl)oxy]methyl}benzonitrile (100 mg, 0.237 mmol), 2-(chloromethyl)pyridine hydrochloride (58.3 mg, 0.356 mmol) and Cs2CO3 (464 mg, 1.42 mmol) in anhydrous N,N-dimethylformamide (10 mL) was sealed in a microwave vial, then irradiated with a microwave at 110° C. for 2 h and filtered. Purification via mass-directed autopreparation afforded the title product (10 mg). LC-MS (ESI): m/z 513 [M+H]+; 4.12 min (ret time).

reactant | 2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(2-oxo-2,3-dihydro-4-pyrimidinyl)oxy]methyl}benzonitrile | 0.237 mmol, 100 mg | ClC1=C(C=C(C=C1)OC1=C(C#N)C=C(C=C1)COC=1NC(N=CC1)=O)C(F)(F)F | C19H11ClF3N3O3
reactant | 2-(chloromethyl)pyridine hydrochloride | 0.356 mmol, 58.3 mg | Cl.ClCC1=NC=CC=C1
reactant | Cs2CO3 | 1.42 mmol, 464 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-({[2-oxo-1-(3-pyridinylmethyl)-1,2-dihydro-4-pyrimidinyl]oxy}methyl)benzonitrile | 10 mg | ClC1=C(C=C(C=C1)OC1=C(C#N)C=C(C=C1)COC1=NC(N(C=C1)CC=1C=NC=CC1)=O)C(F)(F)F | C25H16ClF3N4O3
